* C:\Users\Shreyas Pathak\Documents\LTspice\Draft2.asc
* Generated by LTspice 26.0.0 for Windows.
VDD N001 0 {Vdd}
M1 Vint N004 N005 0 NMOS W={Wn} L={L}
Rsn N005 0 {RSn}
M2 N002 N003 Vint N001 PMOS W={Wp} L={L}
RSp N001 N002 {RSp}
Rgp N003 Vin {RGp}
Rgn N004 Vin {RGn}
Cload Vout 0 {CL}
Rwire Vout Vint {Rw}
Vs Vin 0 PULSE(0 {Vdd} {td} {tr} {tf} {Ton} {Tp})
Cwire Vout 0 {Cw}
Cdiff Vint 0 0.5f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Shreyas Pathak\AppData\Local\LTspice\lib\cmp\standard.mos
.param Nf=2
.param Nfn=Nf
.param Nfp=Nf
.param RShPoly=25
.param RShW=0.1
.param RShDif=15
.param Lw=__LW__
.param Ww=__WW__
.param Wn=__WN__
.param Wp=__WP__
.param L=360n
.param WDifn=Wn
.param WDifp=Wp
.param LDif=0.4u
.param Vdd=5
.tran 0 30n 0
.param Mun=4.5c
.param Mup=2c
.param Epox=34.5p
.param tox=10n
.param Cox=Epox/tox
* CONSTANT VALUES WHICH ARE NEVER CHANGED
* INITIALISING PARAMETERS AVAILABLE TO ML
.param td=0
.param tr=50p
.param tf=50p
.param Ton=2n
.param Tp=5n
* INITIALISING BASIC INPUT PULSE
.param RGp=(L*RShPoly)/(3*Nfp^2*Wp)
.param RGn=(L*RShPoly)/(3*Nfn^2*Wn)
.param RSp=RShDif*(LDif/WDifp)
.param RSn=RShDif*(LDif/WDifn)
.param Rw=RShW*(Lw/Ww)
.param CL=5f
.param Cu=Cox*(Ww+0.6u)
.param Cw=0.5f
* RELATION BETWEEN CIRCUIT PARAMS AND ML TUNEABLE PARAMS
.meas tpHL TRIG V(Vin) VAL={Vdd}/2 RISE=1 TARG V(Vout) VAL={Vdd}/2 FALL=1
.meas tpLH TRIG V(Vin) VAL={Vdd}/2 FALL=1 TARG V(Vout) VAL={Vdd}/2 RISE=1
.meas tpavg param (tpHL+tpLH)/2
* DELAY MEASUREMENTS
.meas tran Iavg AVG I(Vdd) FROM 0 TO 30n
.meas Pav param (-1)*(Vdd*Iavg)
* AVERAGE POWER PER STEP
.meas tran t10_r WHEN V(Vout)=0.1*Vdd RISE=1
.meas tran t90_r WHEN V(Vout)=0.9*Vdd RISE=1
.meas tran trnext PARAM t90_r - t10_r
* OUTPUT SLEW (OR SLEW FOR NEXT STAGE)
* Rise Time
* Fall Time
.meas tran t90_f WHEN V(Vout)=0.9*Vdd FALL=1
.meas tran t10_f WHEN V(Vout)=0.1*Vdd FALL=1
.meas tran tfnext PARAM t10_f - t90_f
* INTEGRATING I FOR TOTAL O/P CAPACITANCE
.meas tran Qout INTEG ((-1)*I(VDD)) FROM=t10_r TO=t90_r
.meas Ctotal param Qout/VDD
* MEASURING EFFECTIVE N AND PMOS RESISTANCES
.meas Reffp param trnext/(2.2*Ctotal)
.meas Reffn param tfnext/(2.2*Ctotal)
* TRANSIENT ANALYSIS PER STEP
.backanno
.end
