* C:\Users\Shreyas Pathak\Documents\LTspice\Draft2.asc
* Generated by LTspice 26.0.0 for Windows.
VDD N001 0 {Vdd}
M1 N004 N005 N006 0 NMOS W={Wn} L={L}
Rsn N006 0 {RSn}
M2 N002 N003 N004 N001 PMOS W={Wp} L={L}
RSp N001 N002 {RSp}
Rgp N003 Vin {RGp}
Rgn N005 Vin {RGn}
Cload Vout 0 {CL}
Rwire Vout N004 {Rw}
Vs Vin 0 PULSE(0 {Vdd} {td} {tr} {tf} {Ton} {Tp})
Cwire Vout 0 {Cw}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Shreyas Pathak\AppData\Local\LTspice\lib\cmp\standard.mos
.param Nf=2
.param Nfn=Nf
.param Nfp=Nf
.param RShPoly=25
.param RShW=0.1
.param RShDif=15
.param Lw=10u
.param Ww=1u
.param Wn=2u
.param Wp=4u
.param L=360n
.param WDifn=Wn
.param WDifp=Wp
.param LDif=0.4u
.tran 0 30n 0
.param Mun=4.5c
.param Mup=2c
.param Epox=34.5p
.param tox=10n
.param Cox=Epox/tox
.param C0=0.1f C1=0.2f
* CONSTANT VALUES WHICH ARE NEVER CHANGED
* INITIALISING PARAMETERS AVAILABLE TO ML
.param td=0
.param tr=50p
.param tf=50p
.param Ton=2n
.param Tp=5n
* INITIALISING BASIC INPUT PULSE
.param RGp=(L*RShPoly)/(3*Nfp^2*Wp)
.param RGn=(L*RShPoly)/(3*Nfn^2*Wn)
.param RSp=RShDif*(LDif/WDifp)
.param RSn=RShDif*(LDif/WDifn)
.param Rw=RShW*(Lw/Ww)
.param Cw=(C0+C1*Ww)*Lw
* RELATION BETWEEN CIRCUIT PARAMS AND ML TUNEABLE PARAMS
.meas VM FIND V(Vin) WHEN V(Vout)=V(Vin)
.meas tpHL TRIG V(Vin)  VAL={VM} RISE=1
+           TARG V(Vout) VAL={VM} FALL=1 TD=1p
.meas tpLH TRIG V(Vin)  VAL={VM} FALL=1
+           TARG V(Vout) VAL={VM} RISE=1 TD=1p
.meas tpavg PARAM (abs(tpHL) + abs(tpLH)) / 2
* DELAY MEASUREMENTS
.meas tran Iavg AVG I(Vdd) FROM 0 TO 30n
.meas Pav param (-1)*(Vdd*Iavg)
* AVERAGE POWER PER STEP
.meas tran t10_r WHEN V(Vout)=0.1*Vdd RISE=1
.meas tran t90_r WHEN V(Vout)=0.9*Vdd RISE=1
.meas tran trnext PARAM t90_r - t10_r
* OUTPUT SLEW (OR SLEW FOR NEXT STAGE)
* Rise Time
* Fall Time
.meas tran t90_f WHEN V(Vout)=0.9*Vdd FALL=1
.meas tran t10_f WHEN V(Vout)=0.1*Vdd FALL=1
.meas tran tfnext PARAM t10_f - t90_f
* INTEGRATING I FOR TOTAL O/P CAPACITANCE
.meas tran Qout INTEG ((-1)*I(VDD)) FROM=t10_r TO=t90_r
.meas Ctotal PARAM Qout/VDD
* MEASURING EFFECTIVE N AND PMOS RESISTANCES
.meas Reffp param trnext/(2.2*Ctotal)
.meas Reffn param tfnext/(2.2*Ctotal)
* MEASURING MAXIMUM AND MINIMUM VALUES OF VOUT
.meas Voutmax max V(Vout) from 2ns to 2.5ns
.meas Voutmin min V(Vout) from 2ns to 2.5ns
* TRANSIENT ANALYSIS PER STEP
.backanno
.end
